US07723330B2
Step B: Preparation of 1-methyl-4-((4-(tributylstannyl)furan-2-yl)methyl)piperazine:
A stirred mixture of 1-((4-bromofuran-2-yl)methyl)-4-methylpiperazine (2.10 g, 8.10 mmol) and THF (50 mL) was cooled to −78° C. in a dry ice/acetone bath. tert-Butyllithium (7.60 mL, 12.2 mmol; 1.6 M in pentane) was added and the reaction mixture was stirred for 30 minutes. Next, tributylchlorostannane (2.09 ml, 7.70 mmol) was added and the reaction mixture was stirred for 30 minutes. The reaction was quenched by addition of pH 7 phosphate buffer (20 mL) and warming to room temperature. The mixture was extracted with diethyl ether, dried over sodium sulfate, filtered and concentrated. The crude material was purified on a Biotage 40S column, eluting with 1:1 EtOAc/hexanes (500 mL), 2:1 EtOAc/hexanes (500 mL), then EtOAc (1 L) to provide a product mixture as a light yellow oil (0.77 g, 86:14 ratio of 1-((4-bromo-5-(tributylstannyl)furan-2-yl)methyl)-4-methylpiperazine to 1-methyl-4-((4-(tributylstannyl)furan-2-yl)methyl)piperazine by 1H-NMR). The mixture was carried forward without separation at this step.

reactant | 1-((4-bromofuran-2-yl)methyl)-4-methylpiperazine | 8.10 mmol, 2.10 g | BrC=1C=C(OC1)CN1CCN(CC1)C | C10H15BrN2O
reactant | tert-Butyllithium | 12.2 mmol, 1.6 M, 7.60 mL | C(C)(C)(C)[Li]
reactant | tributylchlorostannane | 7.70 mmol, 2.09 ml | C(CCC)[Sn](Cl)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-methyl-4-((4-(tributylstannyl)furan-2-yl)methyl)piperazine | 0.77 g | CN1CCN(CC1)CC=1OC=C(C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C10H15N2O.3C4H9.Sn/c1-11-4-6-12(7-5-11)9-10-3-2-8-13-10;3*1-3-4-2;/h3,8H,4-7,9H2,1H3;3*1,3-4H2,2H3;
